US08648089B2
6-(3-bromo-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine
DMF (10 mL) was added to a mixture of 3-bromo-1-(6-chloropyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole (500 mg, 1.16 mmol), methylamine hydrochloride (393 mg, 5.82 mmol) and potassium carbonate (1.60 g, 11.6 mmol). After stirring at 80° C. for 3 hours and then cooling to room temperature, the reaction solution was added to icy water. After stirring at room temperature for 15 hours, thus produced solid was filtered, washed with water and then dried. The target compound (500 mg) was obtained as yellow solid.

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 3-bromo-1-(6-chloropyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 1.16 mmol, 500 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=NC(=C1)Cl | C18H10BrClN4O2
reactant | methylamine hydrochloride | 5.82 mmol, 393 mg | Cl.CN
reactant | potassium carbonate | 11.6 mmol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 6-(3-bromo-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 500 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=NC=N1)NC | C19H14BrN5O2
